US08426430B2
A mixture of (E)-N′-(2-cyano-4-nitrophenyl)-N,N-dimethylformamidine (1.00 g, 4.58 mmol) and 3-aminophenylacetylene (0.64 g, 5.49 mmol) in HOAc (15 mL) was stirred at 100° C. for 3 h. The resulting mixture was cooled to room temperature. The precipitate was filtered out, washed with ether, and dried in vacuo to give 1.23 g (93%) of N-(3-ethynylphenyl)-6-nitroquinazolin-4-amine as a yellow solid.

reactant | (E)-N′-(2-cyano-4-nitrophenyl)-N,N-dimethylformamidine | 4.58 mmol, 1.00 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])/N=C/N(C)C | C10H10N4O2
reactant | 3-aminophenylacetylene | 5.49 mmol, 0.64 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
product | N-(3-ethynylphenyl)-6-nitroquinazolin-4-amine | 1.23 g, 93% | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C16H10N4O2
